US08026244B2
(a) 3-Butoxypyridine-2-carbaldehyde
The title compound was made in a related procedure described by Daines, R. A. et al. (J. Med. Chem. 1993, 36, 3321-3332). To a solution of 2-hydroxy-pyridine-2-carbaldehyde (0.998 g, 8.11 mmol) in DMF (11.4 mL) was added 1-iodobutane (1.10 mL, 9.73 mmol) followed by anhydrous potassium carbonate (3.36 g, 24.3 mmol). After 1 h at 90° C., the solution was cooled to r.t. and poured into ethyl acetate. The organic layer was washed once with water, twice with brine and then was dried over sodium sulfate, filtered and concentrated in vacuo generating 1.31 g (90% yield, 7.30 mmol) of the title compound as a liquid. This material was used in the next step without further purification.

reactant | 2-hydroxy-pyridine-2-carbaldehyde | 8.11 mmol, 0.998 g | OC1(NC=CC=C1)C=O | C6H7NO2
reactant | 1-iodobutane | 9.73 mmol, 1.10 mL | ICCCC | C4H9I
reactant | potassium carbonate | 24.3 mmol, 3.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 11.4 mL | CN(C)C=O | C3H7NO
product | 3-Butoxypyridine-2-carbaldehyde | 7.30 mmol, 1.31 g, 90% yield | C(CCC)OC=1C(=NC=CC1)C=O | C10H13NO2
